US06380218B1
2-(3-Dimethylcarbamoyl-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-benzyl]-nicotinamide
To a stirred solution of 2-(3-Dimethylcarbamoyl-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-benzyl]-nicotinic acid (0.300 grams, 1.05 mmole), 2-(4-Aminomethyl-phenyl)-propan-2-ol (0.190 grams, 1.15 mmole), and 1-hydroxybenzotriazole hydrate (0.155 grams, 1.15 mmole) in dry dimethylformamide (5 ml) was added 1-(3-dimethylamino)-propyl)-3-ethylcarbodiimide hydrochloride (0.242 grams, 1.26 mmole) and stirred over night. The mixture poured into 100 ml water and extracted with ethyl acetate. The combined extracts were washed with 1 N NaOH, water and brine, dried over MgSO4, filtered and concentrated to give an oil that was purified by chromatography on silica gel eluting with 2.5% methanollmethylene chloride (0.360 g). 1H NMR (CDCl3) d 1.54 (6H, s), 3.00 (3H, s), 3.08 (3H, s), 4.66 (2H, d), 7.20 (3H, m), 7.29 (4H, m), 7.43 (2H, m) 8.08 (1H, m), 8.18 (1H, dd), 8.63 (1H, dd); MS: m/e 433 (M+).

reactant | 2-(3-Dimethylcarbamoyl-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-benzyl]-nicotinic acid | 1.05 mmole, 0.300 grams | CN(C(=O)C=1C=C(OC2C(C(=O)O)=CC=CN2CC2=CC=C(C=C2)C(C)(C)O)C=CC1)C | C25H28N2O5
reactant | 2-(4-Aminomethyl-phenyl)-propan-2-ol | 1.15 mmole, 0.190 grams | NCC1=CC=C(C=C1)C(C)(C)O | C10H15NO
reactant | 1-hydroxybenzotriazole hydrate | 1.15 mmole, 0.155 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide hydrochloride | 1.26 mmole, 0.242 grams | Cl.C(C)N=C=N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-(3-Dimethylcarbamoyl-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-benzyl]-nicotinamide | CN(C(=O)C=1C=C(OC2=C(C(=O)NCC3=CC=C(C=C3)C(C)(C)O)C=CC=N2)C=CC1)C | C25H27N3O4
